US05037973
N,N'-1,12-Dodecanediylbis(4-O-β-D-glucopyranosyl-D-gluconamide)
2.04 g of cellobiono-1,5-lactone (H. W. Diehl et al., Carbohydr. Res. 38, 364 (1974)) are reacted with 0.60 g of 1,12-diaminododecane analogously to Example 5 and 0.60 g of the title compound are obtained.

reactant | cellobiono-1,5-lactone | 2.04 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](OC(=O)[C@@H]([C@H]2O)O)CO)O)O)O)O | C12H20O11
reactant | 1,12-diaminododecane | 0.60 g | NCCCCCCCCCCCCN | C12H28N2
product | N,N'-1,12-Dodecanediylbis(4-O-β-D-glucopyranosyl-D-gluconamide) | 0.60 g | C(CCCCCCCCCCCNC(=O)[C@H](O)[C@@H](O)[C@H](O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)[C@H](O)CO)NC(=O)[C@H](O)[C@@H](O)[C@H](O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)[C@H](O)CO | C36H68N2O22
